US09056859B2
5-(prop-2-en-1-yl)-2-benzofuran-1(3H)-one
5-bromo-2-benzofuran-1(3H)-one (6.68 g, 31.4 mmol) was combined with allyltributylstannane (12.5 g, 37.6 mmol), Pd(PPh3)4 (1.09 g, 0.941 mmol), and lithium chloride (2.66 g, 62.7 mmol) in toluene (100 mL) and the mixture was purged with nitrogen gas. The reaction mixture was then stirred at 100° C. for 4 h. The mixture was cooled to room temperature, filtered, and concentrated. The crude residue was purified by MPLC eluting in stepwise fashion with hexanes, then 10% ethyl acetate/hexanes, then 20% ethyl acetate/hexanes. 1H-NMR (500 MHz, CDCl3): δ ppm 7.87 (d, J=8 Hz, 1H), 7.39 (d, J=8 Hz, 1H), 7.35 (s, 1H), 5.96-6.04 (m, 1H), 5.32 (s, 2H), 5.15-5.20 (m, 2H), 3.55 (d, J=6.5 Hz, 2H).

reactant | 5-bromo-2-benzofuran-1(3H)-one | 31.4 mmol, 6.68 g | BrC1=CC2=C(C(OC2)=O)C=C1 | C8H5BrO2
reactant | allyltributylstannane | 37.6 mmol, 12.5 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 62.7 mmol, 2.66 g | [Cl-].[Li+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.941 mmol, 1.09 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(prop-2-en-1-yl)-2-benzofuran-1(3H)-one | C(C=C)C1=CC2=C(C(OC2)=O)C=C1 | C11H10O2
